US07399780B2
5-(2-Furyl)-1,3-dihydro-2H-indol-2-one
The title compound was prepared as described for Example 37 using 5-bromooxindole and tri-n-butyl(2-furyl)tin: MS (ES) m/z 200 (M++1).

reactant | 5-bromooxindole | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | tri-n-butyl(2-furyl)tin | C(CCC)[Sn](C=1OC=CC1)(CCCC)CCCC
product | 5-(2-Furyl)-1,3-dihydro-2H-indol-2-one | O1C(=CC=C1)C=1C=C2CC(NC2=CC1)=O | C12H9NO2
